US04581452
A solution of 1,3-dimethylurea (168 mg; 1.9 mmoles) in DMF (2 ml) was cooled to 0° C., and α-trifluoromethylacryloyl chloride (317 mg; 2.0 mmoles) and triethylamine (0.31 ml; 2.2 mmoles) were added dropwise. The mixture was stirred at 0° C. for 2 hours, and then water (20 ml) was added. The mixture was extracted with methylene chloride (20 ml×1, 10 ml×2). The combined extracts were dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by a column chromatography on silica gel (chloroform) to give 197 mg (yield: 49%) of 1,3-dimethyl-5-trifluoromethyl-5,6-dihydrouracil.

reactant | 1,3-dimethylurea | 1.9 mmoles, 168 mg | CNC(=O)NC | C3H8N2O
reactant | α-trifluoromethylacryloyl chloride | 2.0 mmoles, 317 mg | FC(C(C(=O)Cl)=C)(F)F | C4H2ClF3O
reactant | triethylamine | 2.2 mmoles, 0.31 ml | C(C)N(CC)CC | C6H15N
reactant | water | 20 ml | O | H2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 1,3-dimethyl-5-trifluoromethyl-5,6-dihydrouracil | 197 mg, yield: 49% | CN1C(=O)N(C(=O)C(C1)C(F)(F)F)C | C7H9F3N2O2
